US04710510
7,7-Dimethyl-2-(2-methoxy-4-methylsulphonyloxyphenyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
0.53 g. (4.6 mmol) methanesulphonyl chloride was added dropwise at 25° C. to a solution of 1.5 g. (4.6 mmol) 7,7-dimethyl-2-(2-methoxy-4-hydroxyphenyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one and 0.46 g. (4.6 mmol) triethylamine in 20 ml. dimethylformamide. After 2 hours, the dimethylformamide was distilled off in a vacuum. The residue was worked up with water and filtered off with suction. The residue was recrystallised from ethanol. There were obtained 1.3 g. (70.6% of theory) of the title compound; m.p. 233°-235° C.

reactant | methanesulphonyl chloride | 4.6 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | 7,7-dimethyl-2-(2-methoxy-4-hydroxyphenyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | 4.6 mmol | CC1(C(NC2=CC3=C(N=C(N3)C3=C(C=C(C=C3)O)OC)C=C21)=O)C | C18H17N3O3
reactant | triethylamine | 4.6 mmol | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7,7-Dimethyl-2-(2-methoxy-4-methylsulphonyloxyphenyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | CC1(C(NC2=CC3=C(N=C(N3)C3=C(C=C(C=C3)OS(=O)(=O)C)OC)C=C21)=O)C | C19H19N3O5S
